US07786114B2
a solution of 0.3 g of 3-[4-chloro-5-fluoro-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-1-(3-iodopropyl)-5,6-dimethoxy-1H-pyrrolo[3,2-b]pyridine and 0.382 g of piperidine in 40 cm3 of dichloromethane is refluxed for about 6 hours. After diluting the reaction mixture with 100 cm3 of dichloromethane, the solution is washed with three times 40 cm3 of water, dried over magnesium sulfate, filtered and concentrated to dryness under reduced pressure (13 kPa). After flash chromatography on a column of silica [eluent: dichloromethane/methanol (98/2 by volume)], 0.175 g of 3-[4-chloro-5-fluoro-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-5,6-dimethoxy-(3-piperidin-1-ylpropyl)-1H-pyrrolo[3,2-b]pyridine is thus obtained as a resin with the following characteristics:

reactant | 3-[4-chloro-5-fluoro-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-1-(3-iodopropyl)-5,6-dimethoxy-1H-pyrrolo[3,2-b]pyridine | 0.3 g | ClC1=C2C(=NC=C1F)N(C(=C2)C2=CN(C=1C2=NC(=C(C1)OC)OC)CCCI)S(=O)(=O)C1=CC=C(C=C1)C | C26H23ClFIN4O4S
reactant | piperidine | 0.382 g | N1CCCCC1 | C5H11N
solvent | dichloromethane | 40 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 100 cm3 | ClCCl | CH2Cl2
product | 3-[4-chloro-5-fluoro-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-5,6-dimethoxy-(3-piperidin-1-ylpropyl)-1H-pyrrolo[3,2-b]pyridine | 0.175 g | ClC1=C2C(=NC=C1F)N(C(=C2)C2=CN(C=1C2=NC(=C(C1)OC)OC)CCCN1CCCCC1)S(=O)(=O)C1=CC=C(C=C1)C | C31H33ClFN5O4S
